US07452992B2
To a 0° C. solution of N-(tert-butyl)-4-chloro-2-fluoro-5-{[6-(2-hydroxyethyl)-6-phenyl-1,3-oxazinan-3-yl]carbonyl}benzenesulfonamide (25.2 mg, 0.05 mmol) in dimethyl sulfoxide (71 μL, 1 mmol), diisopropylethylamine (53 μL, 0.30 mmol) and 1 mL CH2Cl2 was added SO3.pyr in one portion. The reaction mixture was stirred for 2 h at 0° C., saturated aqueous NaHCO3 was added, and the aqueous layer was extracted with CHCl3. After evaporation, the resultant crude N-(tert-butyl)-4-chloro-2-fluoro-5-{[6-(2-oxoethyl)-6-phenyl-1,3-oxazinan-3-yl]carbonyl}benzenesulfonamide was obtained and used in the next step without further purification.

reactant | N-(tert-butyl)-4-chloro-2-fluoro-5-{[6-(2-hydroxyethyl)-6-phenyl-1,3-oxazinan-3-yl]carbonyl}benzenesulfonamide | 0.05 mmol, 25.2 mg | C(C)(C)(C)NS(=O)(=O)C1=C(C=C(C(=C1)C(=O)N1COC(CC1)(C1=CC=CC=C1)CCO)Cl)F | C23H28ClFN2O5S
reactant | dimethyl sulfoxide | 1 mmol, 71 μL | CS(=O)C | C2H6OS
reactant | diisopropylethylamine | 0.30 mmol, 53 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | N-(tert-butyl)-4-chloro-2-fluoro-5-{[6-(2-oxoethyl)-6-phenyl-1,3-oxazinan-3-yl]carbonyl}benzenesulfonamide | C(C)(C)(C)NS(=O)(=O)C1=C(C=C(C(=C1)C(=O)N1COC(CC1)(C1=CC=CC=C1)CC=O)Cl)F | C23H26ClFN2O5S
